US04382090
A reaction mixture, prepared from 1.25 g of 1-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-1-methylthio-2-nitroethylene, 0.27 g of 2-methoxyethylamine and 20 ml of ethanol, was heated to refluxing temperature for about three hours. The solvent was then removed by evaporation and the resulting residue was chromatographed over silica using a gradient elution technique. The desired compound was eluted with a 5:95 methanol:ethyl acetate solvent mixture. Removal of the solvent yielded N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-(2-methoxy)ethyl 2-nitro-1,1-ethenediamine as an oil.

reactant | 1-[2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl]amino-1-methylthio-2-nitroethylene | 1.25 g | CN(C)CC=1SC=C(N1)CSCCNC(=C[N+](=O)[O-])SC | C12H20N4O2S3
reactant | 2-methoxyethylamine | 0.27 g | COCCN | C3H9NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-(2-methoxy)ethyl 2-nitro-1,1-ethenediamine | CN(C)CC=1SC=C(N1)CSCCNC(=C[N+](=O)[O-])NCCOC | C14H25N5O3S2
